US07153968B2
Step 1:1-(5-Bromo-pyridin-2-yl)-3-isopropyl-urea
To a solution of 2-amino-5-bromo-pyridine (1.05 eq.) in TBF (0.2M) was added DBU (1.0 eq.) followed by iso-propyl-isocyanate (1.0 eq.). The mixture was stirred for 12 h, diluted with CH2Cl2, washed with brine, dried over MgSO4, filtered and concentrated. Crystallization from acetone afforded the title compound as a white solid.

reactant | 2-amino-5-bromo-pyridine | 1.05 eq. | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | DBU | 1.0 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | iso-propyl-isocyanate | 1.0 eq. | C(C)(C)N=C=O | C4H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(5-Bromo-pyridin-2-yl)-3-isopropyl-urea | BrC=1C=CC(=NC1)NC(=O)NC(C)C | C9H12BrN3O
